### PR TITLE
feat: misc. basic API lemmas

### PR DESCRIPTION
**Pull request by vlad902**

### CODE REVIEW

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Face/Lattice.lean [hunk 1]
```diff
@@ -90,6 +90,14 @@ theorem toConvexSet_lt_toConvexSet {F₁ F₂ : Face P} :
...
 theorem mem_toConvexSet {F : Face P} (x : M) : x ∈ F.toConvexSet ↔ x ∈ F := .rfl
 
+@[simp] theorem carrier_bot : ((⊥ : Face P).carrier) = ∅ := rfl
+
+@[simp] theorem coe_toConvexSet_bot : ((⊥ : Face P).toConvexSet : Set M) = ∅ := rfl
+
+@[simp] theorem carrier_top : ((⊤ : Face P).carrier) = P := rfl
+
+@[simp] theorem coe_toConvexSet_top : ((⊤ : Face P).toConvexSet : Set M) = P := rfl
+
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Face/Lattice.lean]: This looks a bit dubious to me. Do we really need those?

Comment (vlad902) [reply Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Face/Lattice.lean]: ok after talking about this and playing with it locally, I do think we want the direct coercion version to ConvexSet which I've now replaced these with.

Comment (YaelDillies) [reply Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Face/Lattice.lean]: Shouldn't the lemmas be named `toConvexSet` then?

Comment (vlad902) [reply Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Face/Lattice.lean]: (resolved because there new lemmas with a different type signature now.)

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Face/Lattice.lean [hunk 2]
```diff
@@ -90,6 +90,10 @@ theorem toConvexSet_lt_toConvexSet {F₁ F₂ : Face P} :
 @[simp]
 theorem mem_toConvexSet {F : Face P} (x : M) : x ∈ F.toConvexSet ↔ x ∈ F := .rfl
 
+@[simp] theorem carrier_bot : ((⊥ : Face P) : ConvexSet R M) = ∅ := rfl
+
+@[simp] theorem carrier_top : ((⊤ : Face P) : ConvexSet R M) = P := rfl
+
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Face/Lattice.lean]: Better: `toConvexSet_bot` and `toConvexSet_top`.

Comment (vlad902) [reply Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Face/Lattice.lean]: updated the names and included some other API lemmas I have hanging around.

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Basic.lean [hunk 3]
```diff
@@ -48,6 +48,20 @@ lemma _root_.Submodule.isConvexSet (S : Submodule R M) : IsConvexSet R (S : Set
...
+variable [AddCommGroup V] [Module R V] [AddTorsor V A] [ConvexSpace R A] [IsAffineConvexSpace R V A]
+
+lemma _root_.AffineSubspace.isConvexSet (S : AffineSubspace R A) : IsConvexSet R (S : Set A) := by
+  refine IsConvexSet.of_sConvexComb_mem (fun w hw ↦ ?_)
+  rw [IsAffineConvexSpace.sConvexComb_eq_convexComb (V := V), AddTorsor.convexCombination,
+    ← AffineSubspace.affineSpan_coe S, ← Set.image_id (S : Set A)]
+  refine affineCombination_mem_affineSpan_image ?_ (fun _ _ _ ↦ by grind) _
+  simpa [Finsupp.sum] using w.total
+
+end Ring
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Basic.lean:63]: Can we have the same for a submodule?

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Hull.lean [hunk 4]
```diff
@@ -72,7 +72,22 @@ open Pointwise
 variable {R V A : Type*}
 
 variable [Ring R] [PartialOrder R] [IsStrictOrderedRing R]
-variable [AddCommGroup V] [Module R V] [ConvexSpace R V] [IsModuleConvexSpace R V]
+variable [AddCommGroup V] [Module R V]
+variable [AddTorsor V A] [ConvexSpace R A] [IsAffineConvexSpace R V A]
+
+@[simp]
+theorem affineSpan_convexHull_eq (s : Set A) :
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Hull.lean]: Just `affineSpan_convexHull`?

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Hull.lean [hunk 5]
```diff
@@ -72,7 +72,22 @@ open Pointwise
...
+    affineSpan R (convexHull R s : Set A) = affineSpan R s := by
+  refine le_antisymm ?_ (affineSpan_mono R subset_convexHull_self)
+  grw [affineSpan_mono, affineSpan_le_of_subset_coe le_rfl]
+  exact convexHull_min (subset_affineSpan R s) (AffineSubspace.isConvexSet _)
+
+@[simp]
+theorem vectorSpan_convexHull_eq (s : Set A) :
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Hull.lean]: Just `vectorSpan_convexHull`?

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Hull.lean [hunk 6]
```diff
@@ -72,7 +72,22 @@ open Pointwise
...
+    vectorSpan R (convexHull R s : Set A) = vectorSpan R s := by
+  rw [← direction_affineSpan, affineSpan_convexHull_eq, direction_affineSpan]
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Hull.lean]: Same for `span R (convexHull R s)` over a module?

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Basic.lean (hunk 3 above)
Comment (vlad902) [reply Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Basic.lean:63]: It's the lemma directly above this one.
